US05496927
A Parr flask was flushed with argon and charged with 10% palladium on charcoal (0.74 g), followed by the addition of Boc-L-alanyl-L-alanyl-L-proline benzyl ester (1.8 g, 4.0 mmol) dissolved in tert-butanol (300 ml). The reaction mixture shaken under 30 psi of hydrogen at 35° C. for 5 hr. After cooling to room temperature, ethanol (50 ml) was added and the solution was filtered through celite and the filtrate concentrated on a rotary evaporator. The residue was azeotroped with chloroform-hexane to remove the last traces of tert-butanol and then dried under high vacuum to give Boc-L-alanyl-L-alanyl-L-proline (1.40 g, 3.9 mmol) in 98% yield.

reactant | Boc-L-alanyl-L-alanyl-L-proline benzyl ester | 4.0 mmol, 1.8 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C)=O)C)=O)=O | C23H33N3O6
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | tert-butanol | 300 ml | C(C)(C)(C)O | C4H10O
product | Boc-L-alanyl-L-alanyl-L-proline | 3.9 mmol, 1.40 g, 98% yield | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C16H27N3O6
